US05852031
A mixture of 0.75 g (4.4 mmol) of (7RS,9aSR)-7-hydroxymethyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine, 4.02 g (22.1 mmol) of 2,3,5-trichloropyridine, 1.12 g (10.6 mmol) of sodium carbonate and 30 mL of isoamylalcohol was refluxed for 72 h. The mixture was cooled to room temperature, filtered, and concentrated in vacuo. The residue was dissolved in ethyl acetate and washed with saturated sodium carbonate. The organic layer was dried (magnesium sulfate), filtered and evaporated, and the crude product was purified by flash chromatography on silica gel eluting with 95:5 chloroform:methanol to give 1.10 g (80%) of (7RS,9aSR)-7-hydroxymethyl-2-(3,5-dichloro-pyridin-2-yl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine.

reactant | (7RS,9aSR)-7-hydroxymethyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | 4.4 mmol, 0.75 g | OCC1CCC2N(CCNC2)C1 | C9H18N2O
reactant | 2,3,5-trichloropyridine | 22.1 mmol, 4.02 g | ClC1=NC=C(C=C1Cl)Cl | C5H2Cl3N
reactant | sodium carbonate | 10.6 mmol, 1.12 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | isoamylalcohol | 30 mL | C(CC(C)C)O | C5H12O
product | (7RS,9aSR)-7-hydroxymethyl-2-(3,5-dichloro-pyridin-2-yl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | 1.10 g, 80% | OCC1CCC2N(CCN(C2)C2=NC=C(C=C2Cl)Cl)C1 | C14H19Cl2N3O
